### PR TITLE
Zorn lemma for inclusion

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Corollary of Zorn's lemma.
It has a new on its own (https://fr.wikipedia.org/wiki/Lemme_de_Zorn#Principes_de_maximalit%C3%A9_pour_l'inclusion) and happens to be exactly what we need for Vitali's lemma (PR #973 )

@t6s 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: classical/classical_sets.v [hunk 1]
```diff
@@ -2719,6 +2719,29 @@ apply: eq_exist; rewrite predeqE => r; split=> [Br|/sAB] //.
...
+- by move=> ?; exact: subset_refl.
+- by move=> ? ? ?; exact: subset_trans.
+- by move=> [A PA] [B PB]; rewrite /R /= => AB BA; exact/eq_exist/seteqP.
+- exists (sval sA); case: sA => A PA in sAmax *; split => //= B AB PB.
+  have [BA] := sAmax (exist _ B PB) (properW AB).
+  by move: AB; rewrite BA; exact: properxx.
+Qed.
+
+End Zorn_subset.
+
```
Comment (CohenCyril) [inline classical/classical_sets.v:2744]: It looks strange to me to introduce the artifact `R` in the statement.
I would rather phrase it like this:
```coq

Section Zorn_subset.
Variables (T : Type) (P : set (set T)).

Lemma Zorn_bigcup :
    (forall F : set (set T), F `<=` P -> total_on F subset -> P (\bigcup_(X in F) X)) ->
  exists A, P A /\ forall B, A `<` B -> ~ P B.
Proof.
move=> totP; pose R (sA sB : P) := sval sA `<=` sval sB.
have {}totR F (FR : total_on F R) : exists sB, forall sA, F sA -> R sA sB.
   have FP : [set val x | x in F] `<=` P.
     by move=> _ [X FX <-]; apply: set_mem; apply: valP.
   have totF : total_on [set val x | x in F] subset.
     by move=> _ _ [X FX <-] [Y FY <-]; apply: FR.
   exists (SigSub (mem_set (totP _ FP totF))) => A FA; rewrite /R/=.
   exact: (bigcup_sup (imageP val _)).
have [| | |sA sAmax] := Zorn _ _ _ totR.
- by move=> ?; exact: subset_refl.
- by move=> ? ? ?; exact: subset_trans.
- by move=> [A PA] [B PB]; rewrite /R /= => AB BA; exact/eq_exist/seteqP.
- exists (val sA); case: sA => A PA /= in sAmax *; split; first exact: set_mem.
  move=> B AB PB; have [BA] := sAmax (SigSub (mem_set PB)) (properW AB).
  by move: AB; rewrite BA; exact: properxx.
Qed.

End Zorn_subset.

```
Is it better or worse in the real usecases?
